US07456169B2
4-chloro-2-methoxyaniline
4-Chloro-2-methoxynitrobenzene (2.8 g, 14.9 mmol) was dissolved in MeOH (110 mL), then 5% platinum on carbon (0.61 g) was added and the reaction stirred under a H2 balloon for 4 hours. The reaction was then filtered through diatomaceous earth (Celite®) and concentrated under vacuum, giving the product (2.3 g, 100%) as syrup that slowly solidified. MS (DCI) m/e 158 & 160 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 6.83 (d, J=2.4 Hz, 1H), 6.71 (dd, J=8.5, 2.4 Hz, 1H), 6.63 (d, J=8.5 Hz, 1H), 5.27 (v br s, 2H), 3.77 (s, 3H).

reactant | 4-Chloro-2-methoxynitrobenzene | 14.9 mmol, 2.8 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
solvent | MeOH | 110 mL | CO | CH4O
catalyst | platinum on carbon | 0.61 g | [Pt] | Pt
product | 4-chloro-2-methoxyaniline | 2.3 g, 100% | ClC1=CC(=C(N)C=C1)OC | C7H8ClNO
